US07825256B2
N-Benzo[1,3]dioxol-5-ylmethyl-N′-[1-(2-imidazol-1-yl-thiazol-4-yl)-ethyl]-ethane-1,2-diamine was prepared following the procedures described in the preparation of Example 64 using 1-(2-imidazol-1-yl-thiazol-4-yl)-ethanone and (2-amino-ethyl)-benzo[1,3]dioxol-5-ylmethyl-carbamic acid tert-butyl ester. [M+H]+ 372.01; 1H NMR (400 MHz, d6-DMSO) δ 8.38 (s, 1H), 7.82 (d, 1H), 7.31 (s, 1H), 7.18 (d, 1H), 6.92 (d, 1H), 6.84 (d, 1H), 6.77 (dd, 1H), 6.00 (s, 2H), 4.14 (br s, 2H), 3.82 (q, 1H), 3.60 (s, 2H), 3.21 (s, 2H), 2.57 (s, 2H), 1.34 (d, 3H).

reactant | 1-(2-imidazol-1-yl-thiazol-4-yl)-ethanone | N1(C=NC=C1)C=1SC=C(N1)C(C)=O | C8H7N3OS
reactant | (2-amino-ethyl)-benzo[1,3]dioxol-5-ylmethyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(CC1=CC2=C(OCO2)C=C1)CCN)=O | C15H22N2O4
product | N-Benzo[1,3]dioxol-5-ylmethyl-N′-[1-(2-imidazol-1-yl-thiazol-4-yl)-ethyl]-ethane-1,2-diamine | O1COC2=C1C=CC(=C2)CNCCNC(C)C=2N=C(SC2)N2C=NC=C2 | C18H21N5O2S
